US06992087B2
Preparation of N-(5-bromo-3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 8.47, 7.61, 7.18, 5.30, 3.05, 2.81, 2.78, 1.98, 1.33-1.19; (MS/CI) calcd for C16H19N4Br+H 348.3, found 347.1.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCC=2C1=NC=CC2 | C16H20N4
product | N-(5-bromo-3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | BrC=1N=C(C(=NC1CC)NC1CCC=2C1=NC=CC2)CC | C16H19BrN4
